US08293735B2
(±)-(trans)-4-azetidin-1-yl-1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidine-3-carboxylic acid amide
Prepared according to the method used in the preparation of 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine using 4-azetidin-1-yl-piperidine-3-carboxylic acid amide in place of 7-methyl-2,7-diaza-spiro[3.5]nonane. The title compounds were separated by column chromatography.

reactant | 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1(C2)CCN(CC1)C)N1CCOCC1 | C19H26ClN5OS
reactant | 4-azetidin-1-yl-piperidine-3-carboxylic acid amide | N1(CCC1)C1C(CNCC1)C(=O)N | C9H17N3O
product | (±)-(trans)-4-azetidin-1-yl-1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidine-3-carboxylic acid amide | N1(CCC1)[C@H]1[C@@H](CN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl)C(=O)N | C20H27ClN6O2S
